datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CCC3)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"C1=CC=C([S:61]([CH-:10][S:81](C2=CC=CC=C2)(=[O:82])=[O:92])(=[O:62])=[O:72])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.C[C:61]1=[N:10]CC[S:62]1>>CC1=CC(C)=C(C(C)C[CH:20]([N+:10]2=[C:61](C)[S:62]CC2)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"CC[NH:10]CC.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CC[NH+:10](CC)[CH:20]1N2N=N[N:35]=[C:34]2[C:33]([N+](=O)[O-])=[CH:32][C:21]1=[N+:22]([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=CC=C(C)O2)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1.[B:11]([F:62])([F:72])[F:82] 10,11=10,20"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([NH+:10]2CCC[C@H]2C(O)(C2=CC=CC=C2)C2=CC=CC=C2)[N-:21]1 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C>>CC1(C)O[B-:63](C2=CC=CC=C2)([CH2:62][CH+:11][CH2:10][CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)OC1(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20;12=11,12"
"C1=C[C:61]2=[C:62](C=C1)[N-:12][CH:11]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[N:12][C:62]3=[C:61]2C=CC=C3)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([H:10])[C:31]1=[O:32].C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[O:21][CH:20]([NH2+:10][NH:61][C:62](C1=CC=CC=C1)=[O:63])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12=11,12"
